US07994176B2
3-(4-methoxycyclohexyl)-pyrrolidin-2-one
Heat a mixture of 3-(4-methoxycyclohexyl)-dihydro-furan-2-one (0.91 g), ammonium hydroxide (20 mL) and ethanol (20 mL) at 230° C. in a sealed steel bottle for 12 hours. Cool the reaction and remove the solvent in vacuo. Partition the residue with ethyl acetate (100 mL) and HCl (1N, 60 mL). Dry the organic over sodium sulfate. After filtration and concentration, recrystallize with 1:3 ethyl acetate:hexane to afford 0.71 gram of the title compound.

reactant | 3-(4-methoxycyclohexyl)-dihydro-furan-2-one | 0.91 g | COC1CCC(CC1)C1C(OCC1)=O | C11H18O3
reactant | ammonium hydroxide | 20 mL | [OH-].[NH4+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-(4-methoxycyclohexyl)-pyrrolidin-2-one | 0.71 gram | COC1CCC(CC1)C1C(NCC1)=O | C11H19NO2
